US05376684
A solution of 4.1 g of 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid ethyl ester in 30 ml of 5N hydrochloric acid is heated at reflux for 24 hours, during which time two phases are formed. The reaction mixture is cooled to room temperature and the solvent is removed under reduced pressure; the residue is taken up in absolute ethanol and the residual water is distilled off azeotropically. The white solid that remains behind is crystallised from isopropanol, yielding 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid hydrochloride having a melting point of 174°-180°.

reactant | 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid ethyl ester | 4.1 g | C(C)OP(=O)(CC1CCCCC1)C[C@H](CNC(C)C1=CC(=C(C=C1)Cl)Cl)O | C20H32Cl2NO3P
solvent | hydrochloric acid | 5N, 30 ml | Cl | ClH
product | 3-{N-[1-(3,4-dichlorophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(C)NC[C@@H](CP(O)(=O)CC1CCCCC1)O | InChI=1S/C18H28Cl2NO3P.ClH/c1-13(15-7-8-17(19)18(20)9-15)21-10-16(22)12-25(23,24)11-14-5-3-2-4-6-14;/h7-9,13-14,16,21-22H,2-6,10-12H2,1H3,(H,23,24);1H/t13?,16-;/m0./s1
